US06323235B1
Methyl (1-(2-hydroxyethyl)indoline-4-yloxy)acetate
Under argon atmosphere, 1-(2-hydroxyethyl)-4-benzyloxyindoline (369 mg) was dissolved in ethanol and the obtained solution was stirred at room temperature. To this solution, 5% Pd/C (46 mg) was added and the atmosphere in the reaction vessel was replaced with hydrogen. After confirming vanishment of the materials, the atmosphere of the reaction vessel was replaced with argon. Solids were removed by filtration through Celite and the solvent was removed under reduced pressure to obtain a crude product. The crude product was dissolved in DMF and the obtained solution was stirred at room temperature. To this solution, potassium carbonate (368 mg) and methyl bromoacetate (0.26 ml) were added and the mixture was stirred at room temperature. After confirming vanishment of the materials, saturated aqueous ammonium chloride solution (5 ml) was added to the reaction solution and the resultant was extracted three times with ethyl acetate (10 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=1/1) using silica gel to obtain the desired compound (151 mg, yield: 45%).

reactant | 1-(2-hydroxyethyl)-4-benzyloxyindoline | 369 mg | OCCN1CCC2=C(C=CC=C12)OCC1=CC=CC=C1 | C17H19NO2
reactant | hydrogen | [H][H] | H2
reactant | potassium carbonate | 368 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.26 ml | BrCC(=O)OC | C3H5BrO2
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Pd/C | 46 mg | [Pd] | Pd
product | Methyl (1-(2-hydroxyethyl)indoline-4-yloxy)acetate | 151 mg, yield: 45% | OCCN1CCC2=C(C=CC=C12)OCC(=O)OC | C13H17NO4
